US05532267
6-Amidino-2-naphthyl 5-(4-carboxyphenylacetylaminomethyl)furan-2-carboxylate hydrochloride
To 5.4 g of 6-amidino-2-naphthyl 5-(4-t-butoxycarbonylphenylacetylaminomethyl)furan-2-carboxylate hydrochloride was added 8 ml of acetic acid, and hydrogen chloride gas was passed into the mixture for 2 hours while stirring and cooling with ice. The mixture was further stirred for 2.5 hours with water-cooling, the precipitate was collected by filtration and washed twice with 20 ml of acetone. The crystals were dissolved in 20 ml of DMF, then 1 g of active carbon was added to the solution and stirred for 30 minutes while cooling with ice. The insolubles were removed by filtration, the filtrate was added to 250 ml of acetone and stirred for 2 hours at room temperature. The precipitate was collected by filtration to obtain 3.2 g of the intended product.

reactant | 6-amidino-2-naphthyl 5-(4-t-butoxycarbonylphenylacetylaminomethyl)furan-2-carboxylate hydrochloride | 5.4 g | Cl.C(C)(C)(C)OC(=O)C1=CC=C(C=C1)CC(=O)NCC1=CC=C(O1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N
reactant | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen chloride | Cl | ClH
solvent | water | O | H2O
product | 6-Amidino-2-naphthyl 5-(4-carboxyphenylacetylaminomethyl)furan-2-carboxylate hydrochloride | 3.2 g | Cl.C(=O)(O)C1=CC=C(C=C1)CC(=O)NCC1=CC=C(O1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | InChI=1S/C26H21N3O6.ClH/c27-24(28)19-6-5-18-13-20(8-7-17(18)12-19)35-26(33)22-10-9-21(34-22)14-29-23(30)11-15-1-3-16(4-2-15)25(31)32;/h1-10,12-13H,11,14H2,(H3,27,28)(H,29,30)(H,31,32);1H
